US04042699
The reaction of 24.9 g of 1-iodo-3-nitrobenzene (Aldrich Chemical Co.) with 10.9 of 5-methyl-2-(1H)-pyridone by the procedure described in Example 1 affords 16.2g (75%) of 5-methyl-1-(3-nitro-phenyl) pyridone.

reactant | 1-iodo-3-nitrobenzene | 24.9 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | 5-methyl-2-(1H)-pyridone | CC=1C=CC(NC1)=O | C6H7NO
product | 5-methyl-1-(3-nitro-phenyl) pyridone | 16.2g, 75% | CC=1C=CC(N(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C12H10N2O3
